US04617146
5.3 g of magnesium shavings are covered with 100 ml of ether and 30.8 g of methyl iodide are added dropwise in such a manner that the mixture boils slightly. After the addition of 100 ml of ether, the mixture is held at reflux temperature for a further 3 hours, cooled by means of an ice-bath and treated with 20.7 g of copper (I) iodide. After stirring for 15 minutes at 0° C., a solution of 10 g of 3,6,6-trimethyl-2-cyclohexenone in 40 ml of ether is added and the mixture is stirred at 0° C. for a further 3 hours. The green suspension is subsequently poured on to ice, acidified with 2N hydrochloric acid and extracted with ether. The insoluble constituents of the organic phase are filtered off, the filtrate is washed with dilute sodium thiosulphate solution, dried and evaporated. After distillation of the crude product, there are obtained 8.5 g of 2,2,5,5-tetramethylcyclohexanone as a colourless liquid of boiling point 60°-67° C./13 mm Hg.

reactant | magnesium | 5.3 g | [Mg] | Mg
reactant | methyl iodide | 30.8 g | CI | CH3I
reactant | 3,6,6-trimethyl-2-cyclohexenone | 10 g | CC1=CC(C(CC1)(C)C)=O | C9H14O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | copper (I) iodide | 20.7 g | [Cu]I
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,2,5,5-tetramethylcyclohexanone | 8.5 g | CC1(C(CC(CC1)(C)C)=O)C | C10H18O
